US04298743
Preparation of Ethyl 2-(4-Bromophenyl)-thiazol-4-ylacetate
A mixture of 4-bromothiobenzamide (7.62 g), 35.2 mmole), ethyl 4-chloroacetoacetate (5.82 g, 35.2 mmole) and dimethylformamide (23 ml) was stirred under nitrogen and heated in an oil-bath at 115°-120° C. for 11/2 hours. Thin layer chromatography showed the presence of unreacted thioamide. More ethyl chloroacetoacetate (2.91 g, 17.6 mmole) was added and heating was continued for 11/2 hours, by which time no unreacted thioamide remained. The mixture was cooled and poured into ice-water (125 ml) and extracted with ether (2×100 ml). The extract was washed with water (2×100 ml), dried (MgSO4) and evaporated to a semi-solid which contained the desired ester and the corresponding acid. The mixture was dissolved in ethanol (100 ml) saturated with hydrogen chloride and the solution was allowed to stand at room temperature for 1 day. The solution was evaporated to dryness and the ester was used without further purification for preparing the amide.

reactant | 4-bromothiobenzamide | 7.62 g | BrC1=CC=C(C(=S)N)C=C1 | C7H6BrNS
reactant | ethyl 4-chloroacetoacetate | 35.2 mmole, 5.82 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | ethyl chloroacetoacetate | 17.6 mmole, 2.91 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(4-Bromophenyl)-thiazol-4-ylacetate | BrC1=CC=C(C=C1)C=1SC=C(N1)CC(=O)OCC | C13H12BrNO2S
